US06900215B2
To 2-(5-bromo-2-fluorophenyl)pyrazine (0.252 g, 1 mmol) and bis(neopentyl glycolato)diboron (0.292 g) was added dry 1,4-dioxane (4 ml) and dry dimethylsulfoxide (0.4 ml), followed by dry potassium acetate (0.225 g) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.050 g). The mixture was thoroughly degassed with nitrogen and then stirred at 85° C. for 15 h. On cooling to ambient temperature 1N aqueous sodium hydroxide (20 ml) was added and the mixture stirred for 20 min. Diethyl ether was added and the aqueous phase separated and washed with more diethyl ether. The organic extracts were discarded. The aqueous phase was filtered then acidified to pH 5 by addition of 2N aqueous hydrochloric acid (15 ml). The acidic aqueous phase was extracted with dichloromethane. The organic extract was dried over anhydrous sodium sulphate, filtered and evaporated to give 2-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]pyrazine. This was used without further purification: δF (400 MHz, CDCl3) −113.66.

reactant | 2-(5-bromo-2-fluorophenyl)pyrazine | 1 mmol, 0.252 g | BrC=1C=CC(=C(C1)C1=NC=CN=C1)F | C10H6BrFN2
reactant | bis(neopentyl glycolato)diboron | 0.292 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
reactant | potassium acetate | 0.225 g | C(C)(=O)[O-].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.050 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | dimethylsulfoxide | 0.4 ml | CS(=O)C | C2H6OS
product | 2-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]pyrazine | CC1(COB(OC1)C=1C=CC(=C(C1)C1=NC=CN=C1)F)C | C15H16BFN2O2
